US04871730
To a suspension of benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(2-cyclopenten-1-yl) oxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate (syn isomer) (1.06 g) in anisole (2 ml) was added trifluoroacetic acid (4 ml) under ice-cooling and the mixture was stirred for 35 minutes at the same temperature. The mixture was poured into diisopropyl ether (250 ml). The precipitate was collected, washed with diisopropyl ether and dried over phosphorus pentoxide. The precipitate was dissolved in a mixture of tetrahydrofuran (50 ml), sodium bicarbonate (242 mg), water (40 ml) and ethyl acetate (50 ml). The aqueous layer was separated and adjusted to pH 2 with 1N hydrochloric acid. The resultant precipitate was collected, washed with cold water and dried over phosphorus pentoxide to give 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylic acid (syn isomer) (390 mg). mp 178° -182° C. (dec.)

reactant | benzhydryl 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-(2-cyclopenten-1-yl) oxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylate | 1.06 g | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)=NOC1C=CCC1 | C36H31N7O5S3
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | diisopropyl ether | 250 ml | C(C)(C)OC(C)C | C6H14O
solvent | anisole | 2 ml | C1(=CC=CC=C1)OC | C7H8O
product | 7-[2-(5-amino-1,2,4-thiadiazol-3-yl)-2-hydroxyiminoacetamido]-3-[(Z)-2-(3-pyridyl)vinylthio]-3-cephem-4-carboxylic acid | 390 mg | NC1=NC(=NS1)C(C(=O)NC1[C@@H]2N(C(=C(CS2)S\C=C/C=2C=NC=CC2)C(=O)O)C1=O)=NO | C18H15N7O5S3
